US04904575
Step (1): Synthesis of 2-tert-butyl-5-chloro-6-(hydroxylamino)benzoxazole
200 g of 2-tert-butyl-5-chloro-6-nitrobenzoxazole was dispersed in a mixture of 600 ml of ethanol and 300 ml of water and to the mixture was added 42 g of ammonium chloride and then was gradually added zinc powder. The temperature rose to 70° C. due to generation of heat. The mixture was stirred for one hour and then, the inorganic substances were removed by filtration. To the filtrate was added 1.8 liters of water, and the crystals thusdeposited were collected by filtration. The crystals were dried to obtain 153 g of the desired compound.

reactant | 2-tert-butyl-5-chloro-6-nitrobenzoxazole | 200 g | C(C)(C)(C)C=1OC2=C(N1)C=C(C(=C2)[N+](=O)[O-])Cl | C11H11ClN2O3
reactant | ammonium chloride | 42 g | [Cl-].[NH4+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
catalyst | zinc | [Zn] | Zn
product | 2-tert-butyl-5-chloro-6-(hydroxylamino)benzoxazole | 153 g | C(C)(C)(C)C=1OC2=C(N1)C=C(C(=C2)NO)Cl | C11H13ClN2O2
